US04663453
N-[2-(5-bromo-1-indolinyl)phenyl]-4-methyl-1-piperazinecarboxamide
A solution of N-[2-(5-bromo-1-indolinyl)phenyl]phenylcarbamate (11.5 g, 28.5 mmoles), N-methylpiperazine (15 ml) and ether (50 ml) was stirred at room temperature for 2 hours. The ether was evaporated. The mixture was filtered through a silica gel column (150 g), packed with dichloromethaane, and the column was washed with 2% methanol-dichloromethane solution (2 l). The solvent was evaporated. The residue was purified by flash chromatography on a silica gel column (150 g, 230-400 mesh), eluted with 1% methanol/dichloromethane (4 l), 1.5% methanol/dichloromethane (2 l), and 2% methanol/dichloromethane. The fractions containing the desired material were collected and evaporated to give 10.9 g (90%) of product. Crystallization from chloroform and hexane afforded the analytical sample, mp 108°-110° C.

reactant | N-[2-(5-bromo-1-indolinyl)phenyl]phenylcarbamate | 28.5 mmoles, 11.5 g | BrC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)N(C([O-])=O)C1=CC=CC=C1
reactant | N-methylpiperazine | 15 ml | CN1CCNCC1 | C5H12N2
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-[2-(5-bromo-1-indolinyl)phenyl]-4-methyl-1-piperazinecarboxamide | 10.9 g, 90% | BrC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)NC(=O)N1CCN(CC1)C | C20H23BrN4O
